US04460508
The mixture of 2.1 g of 11H-imidazo[1,2-c][1,3]benzodiazepine-5(6H)-thione, 23 ml of methylene chloride and 1.0 g of 1-methylpiperazine is stirred at room temperature for 15 hours. The crystalline product formed is filtered off and washed with methylene chloride, to yield 1-[2-(2-imidazolylmethyl)phenylthiocarbamoyl]-4-methylpiperazine.

reactant | 11H-imidazo[1,2-c][1,3]benzodiazepine-5(6H)-thione | 2.1 g | N=1C=CN2C(NC3=C(CC21)C=CC=C3)=S | C11H9N3S
reactant | 1-methylpiperazine | 1.0 g | CN1CCNCC1 | C5H12N2
solvent | methylene chloride | 23 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(2-imidazolylmethyl)phenylthiocarbamoyl]-4-methylpiperazine | N1C(=NC=C1)CC1=C(C=CC=C1)NC(=S)N1CCN(CC1)C | C16H21N5S
